US08629137B2
Step 2: 6-(5-bromo-pyridin-3-carbonyl)-4-methyl-3H-benzoxazol-2-one
2.57 g (10.0 mmol) 5-bromo-nicotinic acid chloride hydrochloride, 1.49 g (10.0 mmol) 4-methyl-3H-benzoxazol-2-one and 5.33 g (40.0 mmol) aluminium trichloride were heated to 125° C. with stirring for 1.5 h. After cooling to RT the mixture was mixed with ice water. The precipitate formed was suction filtered, washed with water and dried i. vac.

reactant | 5-bromo-nicotinic acid chloride hydrochloride | 10.0 mmol, 2.57 g | Cl.BrC=1C=NC=C(C(=O)Cl)C1
reactant | 4-methyl-3H-benzoxazol-2-one | 10.0 mmol, 1.49 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 40.0 mmol, 5.33 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 6-(5-bromo-pyridin-3-carbonyl)-4-methyl-3H-benzoxazol-2-one | BrC=1C=C(C=NC1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C14H9BrN2O3
